US04556660
A mixture of 3.7 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine, 1 part of N,N-diethylethanamine and 45 parts of tetrahydrofuran was stirred at -20° C. and there was added dropwise a solution of 1.5 parts of 2,4-dichloropyrimidine in tetrahydrofuran at this temperature. Upon completion, the mixture was allowed to reach slowly room temperature and stirring was continued overnight at room temperature. The precipitate was filtered off and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume), saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried, yielding 1.7 parts of N-[1-[2-[(2-chloro-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-amine dihydrochloride monohydrate; mp. 287.4° C. (compound 60).

reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[1-[2-[(2-chloro-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-amine dihydrochloride monohydrate | O.Cl.Cl.ClC1=NC=CC(=N1)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | InChI=1S/C25H27ClFN7.2ClH.H2O/c26-24-29-12-9-23(32-24)28-13-16-33-14-10-20(11-15-33)30-25-31-21-3-1-2-4-22(21)34(25)17-18-5-7-19(27)8-6-18;;;/h1-9,12,20H,10-11,13-17H2,(H,30,31)(H,28,29,32);2*1H;1H2
